US09024032B2
NaClO2 (28.3 g, 315 mmol) was added portion-wise to a mixture of 5-(benzyloxy)-1-(biphenyl-3-yl)-4-oxo-1,4-dihydropyridine-2-carbaldehyde (80 g, 210 mmol) in 800 mL of acetone and 800 mL of water at room temperature. The resulting mixture was stirred at room temperature for 3 h. The solvent was removed to give a residue which was washed with water and MeOH and dried to give 5-(benzyloxy)-1-(biphenyl-3-yl)-4-oxo-1,4-dihydropyridine-2-carboxylic acid. 1H NMR δ (400 MHz, d6-DMSO): 7.79 (s, 1H), 7.77˜7.68 (m, 4H), 7.57 (t, J=8.0 Hz, 1H), 7.48 (t,=7.6 Hz, 2H), 7.42-7.31 (m, 7H), 6.66 (s, 1H), 5.04 (s, 2H).

reactant | NaClO2 | 315 mmol, 28.3 g | [O-]Cl=O.[Na+]
reactant | 5-(benzyloxy)-1-(biphenyl-3-yl)-4-oxo-1,4-dihydropyridine-2-carbaldehyde | 210 mmol, 80 g | C(C1=CC=CC=C1)OC=1C(C=C(N(C1)C=1C=C(C=CC1)C1=CC=CC=C1)C=O)=O | C25H19NO3
solvent | acetone | 800 mL | CC(=O)C | C3H6O
solvent | water | 800 mL | O | H2O
product | 5-(benzyloxy)-1-(biphenyl-3-yl)-4-oxo-1,4-dihydropyridine-2-carboxylic acid | C(C1=CC=CC=C1)OC=1C(C=C(N(C1)C=1C=C(C=CC1)C1=CC=CC=C1)C(=O)O)=O | C25H19NO4
